US08735417B2
tert-Butyl (3R)-3-{[2-({3-methyl-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]-phenyl}amino)pyrimidin-4-yl]oxy}pyrrolidine-1-carboxylate (80 mg, 0.14 mmol) was taken up in dichloromethane (1 mL). The mixture was treated with trifluoroacetic acid (0.2 mL, 2.6 mmol) and left to stir for 1 hour. The reaction was neutralized with saturated aqueous sodium bicarbonate, and extracted with ethyl acetate (×3). The combined organics were washed with brine, dried over sodium sulfate, concentrated, and purified by Combiflash (methanol/dichloromethane) to provide 4-{5-[3-methyl-5-({4-[(3R)-pyrrolidin-3-yloxy]-pyrimidin-2-yl}amino)phenyl]-1,3-thiazol-2-yl}-1,4-diazepan-2-one. MS APCI: [M+H]+ m/z 466.1. 1H NMR (500 MHz, DMSO-d6) δ 9.53 (s, 1H), 8.22 (d, J=5.6, 1H), 7.63 (m, 2H), 7.49 (s, 1H), 7.38 (s, 1H), 6.96 (s, 1H), 6.25 (d, J=5.6, 1H), 5.56 (s, 1H), 4.16 (s, 2H), 4.10 (s, 1H), 3.80 (s, 2H), 3.44-3.05 (m, 5H), 2.27 (s, 3H), 2.21 (m, 1H), 2.06 (m, 1H), 1.77 (m, 2H). rhSyk=+++

reactant | tert-Butyl (3R)-3-{[2-({3-methyl-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]-phenyl}amino)pyrimidin-4-yl]oxy}pyrrolidine-1-carboxylate | 0.14 mmol, 80 mg | CC=1C=C(C=C(C1)C1=CN=C(S1)N1CC(NCCC1)=O)NC1=NC=CC(=N1)O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C28H35N7O4S
reactant | trifluoroacetic acid | 2.6 mmol, 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-{5-[3-methyl-5-({4-[(3R)-pyrrolidin-3-yloxy]-pyrimidin-2-yl}amino)phenyl]-1,3-thiazol-2-yl}-1,4-diazepan-2-one | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)O[C@H]1CNCC1)C1=CN=C(S1)N1CC(NCCC1)=O | C23H27N7O2S
